US06849620B2
To a stirred solution of methyl 1H-indazole-5-carboxylate (500 mg, 2.84 mmol) in MeOH (15 mL) is added sodium hydroxide (20 mL of 2.5% aqueous solution). The mixture is heated at reflux for 1 h, followed by removal of the methanol in vacuo. The remaining aqueous solution is washed with EtOAc (5 mL), acidified with 1 N aqueous HCl to pH˜5-6. The resulting precipitate is collected by filtration, washed with water and dried in vacuo to afford 410 mg (89%) of 1H-indazole-5-carboxylic acid as a tan solid: IR (diffuse reflectance) 3290, 3115, 2964, 2954, 2813, 2606, 2557, 2505, 1687, 1627, 1321, 1274, 948, 937, 769 cm−1; 1H NMR (400 MHz, DMSO-d6) δ 13.4 12.7, 8.5 8.2, 7.9, 7.6.

reactant | methyl 1H-indazole-5-carboxylate | 2.84 mmol, 500 mg | N1N=CC2=CC(=CC=C12)C(=O)OC | C9H8N2O2
reactant | sodium hydroxide | 20 mL | [OH-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
product | 1H-indazole-5-carboxylic acid | 410 mg, 89% | N1N=CC2=CC(=CC=C12)C(=O)O | C8H6N2O2
